US08426404B2
Synthesis of 3-[1-(6-Amino-pyrimidin-4-yl)-1H-benzoimidazol-2-ylamino]-4-methyl-N-[4-(2-methyl-imidazol-1-yl)-3-trifluoromethyl-phenyl]-benzamide
A solution of 6-(2-Chloro-benzoimidazol-1-yl)-pyrimidin-4-ylamine (15 mg, 0.056 mmol), 3-amino-4-methyl-N-[4-(2-methyl-imidazol-1-yl)-3-trifluoromethyl-phenyl]-benzamide (22 mg, 0.059 mmol), and MeSO3H (11.0 μL, 0.17 mmol) in 1,3-dimethyl-2-imidazolidinone (0.2 ml) is heated at 80° C. After stirring for overnight, the reaction mixture is cooled to room temperature. Purification by reverse-phase LC-MS afforded the title compound: 1H NMR 600 MHz (DMSO-d6) δ 11.50-11.00 (bs, 1H), 10.90 (s, 1H), 9.02 (s, 1H), 8.57 (s, 1H), 8.55 (d, J=2.0 Hz, 1H), 8.37 (dd, J=8.2, 2.0 Hz 1H), 7.92 (s, 1H), 7.87 (d, J=8.2 Hz, 1H), 7.81 (d, J=2.0 Hz, 1H), 7.70 (s, 1H), 7.69 (s, 1H), 7.55-7.46 (m, 4H), 7.87 (d, J=8.2 Hz, 1H), 7.27 (t, J=8.2 Hz, 1H), 7.22 (t, J=8.2 Hz, 1H), 2.46 (s, 3H), 2.41 (s, 3H); MS m/z 584.2 (M+1).

reactant | 6-(2-Chloro-benzoimidazol-1-yl)-pyrimidin-4-ylamine | 0.056 mmol, 15 mg | ClC1=NC2=C(N1C1=CC(=NC=N1)N)C=CC=C2 | C11H8ClN5
reactant | 3-amino-4-methyl-N-[4-(2-methyl-imidazol-1-yl)-3-trifluoromethyl-phenyl]-benzamide | 0.059 mmol, 22 mg | NC=1C=C(C(=O)NC2=CC(=C(C=C2)N2C(=NC=C2)C)C(F)(F)F)C=CC1C | C19H17F3N4O
reactant | MeSO3H | 0.17 mmol, 11.0 μL | CS(=O)(=O)O | CH4O3S
solvent | 1,3-dimethyl-2-imidazolidinone | 0.2 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 3-[1-(6-Amino-pyrimidin-4-yl)-1H-benzoimidazol-2-ylamino]-4-methyl-N-[4-(2-methyl-imidazol-1-yl)-3-trifluoromethyl-phenyl]-benzamide | NC1=CC(=NC=N1)N1C(=NC2=C1C=CC=C2)NC=2C=C(C(=O)NC1=CC(=C(C=C1)N1C(=NC=C1)C)C(F)(F)F)C=CC2C | C30H24F3N9O
